US06608070B1
4-Ethyl-3-fluoropyridine-N-oxide:
To a mixture of 4-ethyl-3-fluoropyridine (R. P. Dikinson et al., Bioorg. Med. Chem. Lett., 1996, 6, 2031, 28.51 g, 205.9 mmol) and 30% hydrogen peroxide (30 ml) in acetic acid (300 ml) was heated at reflux temperature for 3 h. After cooling to room temperature, the resulting mixture was concentrated. The residue was diluted in dichloromethane (300 ml) and dried (MgSO4). Removal of solvent gave 32.30 g (100%) of the title compound as an oil.

reactant | 4-ethyl-3-fluoropyridine | 205.9 mmol, 28.51 g | C(C)C1=C(C=NC=C1)F | C7H8FN
reactant | hydrogen peroxide | 30 ml | OO | H2O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4-Ethyl-3-fluoropyridine-N-oxide | 32.30 g, 100% | C(C)C1=C(C=[N+](C=C1)[O-])F | C7H8FNO
